US07820707B2
e) 2-[2-(3-Tert-butyl-4-dimethylaminomethylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydro benzo[b]thiophene-3-carboxamide
2-[2-(3-Tert-butyl-4-formylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (50 mg, 0.13 mmol) and dimethylamine hydrochloride (20 mg, 0.23 mmol) were mixed with DMF (0.3 mL) and acetic acid (0.3 mL). Sodium triacetoxyborohydride (70 mg, 0.33 mmol) was added and the mixture stirred for 1 h. The reaction was quenched with MeOH and water and directly purified by preparative reverse phase HPLC. The clean product was passed down an SCX cartridge and the volatiles were blown off under a nitrogen atmosphere (2.1 mg, 5 μmol, 4%).

reactant | 2-[2-(3-Tert-butyl-4-formylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.13 mmol, 50 mg | C(C)(C)(C)C1=NN(C=C1C=O)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C19H24N4O3S
reactant | dimethylamine hydrochloride | 0.23 mmol, 20 mg | Cl.CNC
reactant | DMF | 0.3 mL | CN(C)C=O | C3H7NO
reactant | Sodium triacetoxyborohydride | 0.33 mmol, 70 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
product | 2-[2-(3-Tert-butyl-4-dimethylaminomethylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydro benzo[b]thiophene-3-carboxamide | C(C)(C)(C)C1=NN(C=C1CN(C)C)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C21H31N5O2S
